US07709645B2
Step 1: Synthesis of morpholine-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]phenyl}-amide
Into a 3 mL reaction vial were added 2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide (48 mg, 0.085 mmol), methylene chloride (1 mL) and morpholine (40 μL, 0.455 mmol, pre-treated with molecular sieves). The solution was stirred at room temperature for at least 12 h and monitored by HPLC. The reaction mixture was concentrated then re-dissolved in MeOH (1 mL), and cooled to 0° C. and treated with 100 μL 50% (w/w) aqueous KOH for 30 min or until Ts-removal was complete. The reaction was quenched by addition of 500 μL glacial acetic acid and then concentrated in vacuum. Purification by Mass-triggered HPLC (formic acid ACN/H2O gradient) followed by lyophilization provided 10.4 mg of the title compound as a white powder. 1H-NMR (500 MHz, d6-DMSO) δ 11.91 (br.s, 1H), 8.73 (br.s., 1H), 8.52 (d, J=2.0 Hz, 1H), 8.14 (d, J=2.0 Hz, 1H), 7.71 (m, 3H), 7.80 (s, 1H), 7.58 (d, J=9.0 Hz, 1H), 7.28 (app t, J=7.5 Hz, 1H), 7.11 (d, J=7 Hz, 1H), 7.03 (t, J=7 Hz, 1H), 3.80 (s, 3H), 3.60 (m, 4H), 3.51 (m, 4H), 2.96 (br s, 6H); MS: m/z 500.1 [M+H+].

reactant | 2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.085 mmol, 48 mg | N(=C=O)C1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C31H26N4O5S
reactant | morpholine | 0.455 mmol, 40 μL | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | morpholine-4-carboxylic acid {2-dimethylcarbamoyl-4-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]phenyl}-amide | 10.4 mg | CN(C(=O)C1=C(C=CC(=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC)NC(=O)N2CCOCC2)C | C28H29N5O4
